US08003792B2
Step A. tert-Butyl 2-oxo-3-tetrahydro-2H-thiopyran-4-yl-2,3-dihydro-1H-benzimidazole-1-carboxylate
Diethyl azodicarboxylate (446 mg, 2.56 mmol) was added to a solution of tert-butyl 2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxylate (J. Org. Chem., 1995, 60, 1565-1582) (500 mg, 2.13 mmol), triphenylphosphine (672 mg, 2.56 mmol), and tetrahydro-2H-thiopyran-4-ol (Chem. Comm., 2002, 10, 1070-1071) (303 mg, 2.56 mmol) in THF (10 mL). After 20 h, the reaction was concentrated in vacuo and the crude product purified by silica gel column chromatography, eluting with a gradient of hexane:EtOAc-100:0 to 95:5, to give the title compound. MS: m/z=335 (M+1).

reactant | Diethyl azodicarboxylate | 2.56 mmol, 446 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tert-butyl 2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxylate | 2.13 mmol, 500 mg | O=C1NC2=C(N1C(=O)OC(C)(C)C)C=CC=C2 | C12H14N2O3
reactant | triphenylphosphine | 2.56 mmol, 672 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydro-2H-thiopyran-4-ol | 2.56 mmol, 303 mg | S1CCC(CC1)O | C5H10OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-oxo-3-tetrahydro-2H-thiopyran-4-yl-2,3-dihydro-1H-benzimidazole-1-carboxylate | O=C1N(C2=C(N1C(=O)OC(C)(C)C)C=CC=C2)C2CCSCC2 | C17H22N2O3S
